US06599917B1
c) 3-Benzyl-5-(N-methylamino)-2-methoxypyridine
920 mg of 3-benzyl-5-(N-methyl-tert-butoxycarbonylamino)-2-methoxypyridine was dissolved in 5 ml of ethyl acetate, followed by adding 10 ml of 4N hydrochloric acid/ethyl acetate thereto. The resulting solid (640 mg) was collected by filtration. To the solid (230 mg) were added 10 ml of ethyl acetate, 150 mg of benzoyl chloride and 0.5 ml of pyridine in an ice bath, followed by stirring. After adding water thereto, the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid, aqueous saturated sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and then evaporated, to give 270 mg of the target compound.

reactant | 3-benzyl-5-(N-methyl-tert-butoxycarbonylamino)-2-methoxypyridine | 920 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)N(C)C(=O)OC(C)(C)C)OC | C19H24N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzyl-5-(N-methylamino)-2-methoxypyridine | 270 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)NC)OC | C14H16N2O
